US04002746
Add dl-17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17-ol (2 g) in ether (55 ml) to distilled liquid ammonia (180 ml), and add lithium (1 g) to the stirred solution. After 45 minutes add ethanol (15 ml) and ether (15 ml) dropwise followed by ammonium chloride and water. Extract with ether, wash, dry, evaporate, and recrystallize the residue from ether to obtain dl-17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol (1.4 g), m.p. 131°-134°.

reactant | 17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17-ol | 2 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)O | C21H30O2
solvent | ether | 55 ml | CCOCC | C4H10O
product | 17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol | 1.4 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3CC(=CCC3[C@H]1CC2)OC)O | C21H32O2
